US08013003B2
N-Methyl-N-(tetrahydro-2H-pyran-4-yl)-[2,1,3]-benzothiadiazole-5-carboxamide
N-Methyltetrahydro-2H-pyran-4-amine (0.4 g, 3.4 mmol), [2,1,3]-benzothiadiazole-5-carboxylic acid (0.23 g, 1.4 mmol), DMAP (0.2 g: 1.6 mmol), HOBT (0.2 g, 1.5 mmol), triethylamine (1.0 ml) and EDCI (1 g, 6.4 mmol) were dissolved in DMF (30 ml). The mixture was stirred at room temperature for 18 h and then concentrated under vacuum. Chloroform (100 ml) was added and the mixture washed with water (100 ml) and H2SO4 (→pH 2) and NaHCO3 solution (100 ml). The aqueous was extracted with chloroform (100 ml) and the combined organics were dried (MgSO4), concentrated under vacuum, and the crude product was purified on a silica gel column eluting with chloroform/THF (90:10), to give the product as an oil which crystallized on standing. Mp=106-108° C., 1H NMR (300 MHz, CDCl3, rotamers) δ 8.06 (d, J=9.0 Hz, 1H); 8.01 (s, 1H); 7.60 (d, J=9.0 Hz, 1H); 4.92-4.75 and 4.15-3.10 (m, 5H); 3.10-2.80 (m, 3H) and 2.05-1.50 ppm (s, 4H).

reactant | N-Methyltetrahydro-2H-pyran-4-amine | 3.4 mmol, 0.4 g | CNC1CCOCC1 | C6H13NO
reactant | [2,1,3]-benzothiadiazole-5-carboxylic acid | 1.4 mmol, 0.23 g | N=1SN=C2C1C=CC(=C2)C(=O)O | C7H4N2O2S
reactant | HOBT | 1.5 mmol, 0.2 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 6.4 mmol, 1 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 1.6 mmol, 0.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
product | N-Methyl-N-(tetrahydro-2H-pyran-4-yl)-[2,1,3]-benzothiadiazole-5-carboxamide | CN(C(=O)C1=CC=2C(=NSN2)C=C1)C1CCOCC1 | C13H15N3O2S
